US06399629B1
Compound M88: (2R,4S)-4-(Aminomethyl)-N-[(5-phenyloxy-2-benzimidazolyl)methyl]-2-pyrrolidinecarboxamide
This compound was prepared as in Compound M77, replacing N-(Benzyloxycarbonyl)-D-homophenylalanine with N-(Benzyloxycarbonyl)glycine, 2-aminophenol with 1,2-diamino-4-phenyloxybenzene and trans-4-(N-tert-butoxycarbonylglycyl)amino-N-tert-butoxycarbonyl-L-proline with trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-D-proline.

reactant | N-(Benzyloxycarbonyl)glycine | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 1,2-diamino-4-phenyloxybenzene | NC1=C(C=C(C=C1)OC1=CC=CC=C1)N | C12H12N2O
reactant | trans-4-(N-tert-butoxycarbonylglycyl)amino-N-tert-butoxycarbonyl-L-proline | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H29N3O7
reactant | trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-D-proline | C(C)(C)(C)OC(=O)NC[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C16H28N2O6
product | (2R,4S)-4-(Aminomethyl)-N-[(5-phenyloxy-2-benzimidazolyl)methyl]-2-pyrrolidinecarboxamide | NC[C@@H]1C[C@@H](NC1)C(=O)NCC=1NC2=C(N1)C=CC(=C2)OC2=CC=CC=C2 | C20H23N5O2
